US04711890
N,N-diethyl-2-(4-methoxyphenyl)-quinoline-4-carboxamide.
The procedure of Example 3 is followed using 2-(4-methoxyphenyl)-quinoline-4-carboxylic acid (5 g), thionyl chloride (15 ml) and diethylamine (18.4 ml) as the starting materials.

reactant | 2-(4-methoxyphenyl)-quinoline-4-carboxylic acid | 5 g | COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C17H13NO3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 18.4 ml | C(C)NCC | C4H11N
product | N,N-diethyl-2-(4-methoxyphenyl)-quinoline-4-carboxamide | C(C)N(C(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC)CC | C21H22N2O2
